US06683090B1
(RS)-N-(1-Azabicyclo[2.2.2]oct-3-yl)[E-3-(2-trifluoromethylphenyl)propenamide]
Prepared as a free base by a method analogous to that described in Example 1 from racemic 1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and E-3-(2-trifluoromethylphenyl)propenoic acid; MS (ES+) 325 (MH+).

reactant | racemic 1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12CC(C(CC1)CC2)N
reactant | E-3-(2-trifluoromethylphenyl)propenoic acid | FC(C1=C(C=CC=C1)/C=C/C(=O)O)(F)F | C10H7F3O2
product | (RS)-N-(1-Azabicyclo[2.2.2]oct-3-yl)[E-3-(2-trifluoromethylphenyl)propenamide] | N12CC(C(CC1)CC2)NC(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O | C17H19F3N2O
